US08304371B2
To a solution of 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzyl acetate (1.1 g) in methanol (20 ml) was added sodium methoxide (0.1 g), and the solution was stirred for 1 hour at room temperature. The reaction mixture was returned to room temperature and then diluted with t-butyl methyl ether, washed with water and a saturated aqueous brine and subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain {2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]phenyl}methanol (0.95 g).

reactant | 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzyl acetate | 1.1 g | C(C)(=O)OCC1=C(C=C(C=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)Br | C20H15BrCl2F3NO2
reactant | sodium methoxide | 0.1 g | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | t-butyl methyl ether | COC(C)(C)C | C5H12O
product | {2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]phenyl}methanol | 0.95 g | BrC1=C(C=CC(=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CO | C18H13BrCl2F3NO
